US05532258
A solution of hydrazine hydrate (4.0 g) in methanol was added dropwise to a mixture of N-(3-cyanobenzyl)phthalimide (17.0 g) in tetrahydrofuran (150 ml) and methanol (120 ml) at ambient temperature under stirring and the resultant mixture was stirred for 3 hours at ambient temperature. To the reaction mixture was added dropwise 6N-hydrochloric acid (25 ml) and the mixture was stirred for one hour at ambient temperature. The reaction mixture was evaporated in vacuo. To the residue was added water (60 ml) and the mixture was stirred at 10 minutes and filtrated. The filtrate was washed with ethyl acetate and adjusted to pH 8.0 with 20% potassium carbonate solution. Acetic anhydride (15 ml) was added dropwise to the resulting solution at 8° to 20° C. under stirring and the mixture was stirred for one hour at 10° to 20° C. The reaction mixture was extracted with ethyl acetate, and extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give N-(3-cyanobenzyl)acetamide (7.45 g).

reactant | hydrazine hydrate | 4.0 g | O.NN
reactant | N-(3-cyanobenzyl)phthalimide | 17.0 g | C(#N)C=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C16H10N2O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | methanol | 120 ml | CO | CH4O
product | N-(3-cyanobenzyl)acetamide | 7.45 g | C(#N)C=1C=C(CNC(C)=O)C=CC1 | C10H10N2O
